US06586435B2
[BB03]: 1-[(2Z)-4-chloro-2-butenyl]-3-methyl-1,3-dihydro-2H-benzimidazol-2-one
A solution of 1-methyl-1,3-dihydro-2H-benzimidazol-2-one (2 g, 13 mmoles) in DMF (50 ml) was added dropwise and at room temperature to a suspension of 80% sodium hydride (0.4 g, 13 mmoles) in DMF (25 ml). The mixture was heated at 40° C. for 30 minutes and cis-1,4-dichloro-2-butene (2.84 ml, 27 mmoles) in DMF (30 ml) was dropped in 4 hours under stirring. After stirring overnight at room temperature, the reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was evaporated and the crude residue was purified by flash chromatography (hexane-ethyl acetate 55-45) to give 1.4 of the title compound as a thick yellowish oil.

reactant | 1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 13 mmoles, 2 g | CN1C(NC2=C1C=CC=C2)=O | C8H8N2O
reactant | sodium hydride | 13 mmoles, 0.4 g | [H-].[Na+]
reactant | cis-1,4-dichloro-2-butene | 27 mmoles, 2.84 ml | ClC\C=C/CCl | C4H6Cl2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-[(2Z)-4-chloro-2-butenyl]-3-methyl-1,3-dihydro-2H-benzimidazol-2-one | ClC\C=C/CN1C(N(C2=C1C=CC=C2)C)=O | C12H13ClN2O
